US08236943B2
Synthesis of Linoleyl Bromide (II)
A mixture of linoleyl methane sulfonate (6.2 g, 18 mmol) and magnesium bromide etherate (17 g, 55 mmol) in anhydrous ether (300 mL) was stirred under argon overnight (21 hours). The resulting suspension was poured into 300 mL of chilled water. Upon shaking, the organic phase was separated. The aqueous phase was extracted with ether (2×150 mL). The combined ether phase was washed with water (2×150 mL), brine (150 mL), and dried over anhydrous Na2SO4. The solvent was evaporated to afford 6.5 g of colourless oil. The crude product was purified by column chromatography on silica gel (230-400 mesh, 300 mL) and eluted with hexanes. This gave 6.2 g (approximately 100%) of linoleyl bromide (II). 1H NMR (400 MHz, CDCl3) δ: 5.27-5.45 (4H, m, 2×CH═CH), 3.42 (2H, t, CH2Br), 2.79 (2H, t, C═C—CH2—C═C), 2.06 (4H, q, 2× allylic CH2), 1.87 (2H, quintet, CH2), 1.2-1.5 (16H, m), 0.90 (3H, t, CH3) ppm.

reactant | linoleyl methane sulfonate | 18 mmol, 6.2 g | CS(=O)(=O)OCCCCCCCC\C=C/C\C=C/CCCCC | C19H36O3S
reactant | magnesium bromide | 55 mmol, 17 g | [Br-].[Mg+2].[Br-]
reactant | water | 300 mL | O | H2O
solvent | ether | 300 mL | CCOCC | C4H10O
product | Linoleyl Bromide | 6.5 g | C(CCCCCCC\C=C/C\C=C/CCCCC)Br | C18H33Br
